### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): connected components of simplicial sets

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #37334

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/Nonempty.lean [hunk 1]
```diff
@@ -0,0 +1,65 @@
...
+    ¬ X.Nonempty ↔ X.HasDimensionLT 0 := by
+  simp only [not_nonempty_iff]
+  refine ⟨fun _ ↦ ⟨fun n hn ↦ ?_⟩, fun _ ↦ ⟨fun x ↦ ?_⟩⟩
+  · have := Function.isEmpty (X.map (⦋0⦌.const ⦋n⦌ 0).op)
+    ext x
+    exact isEmptyElim x
+  · exact (lt_self_iff_false _).1 (X.dim_lt_of_nonDegenerate ⟨x, by simp⟩ 0)
+
+variable {X} in
+/-- If a simplicial set is nonempty, it is an initial object. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Nonempty.lean]:
```suggestion
/-- If a simplicial set is not nonempty, it is an initial object. -/
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Nonempty.lean [hunk 2]
```diff
@@ -0,0 +1,65 @@
...
+lemma nonempty_of_hom {Y : SSet.{u}} (f : Y ⟶ X) [Y.Nonempty] : X.Nonempty :=
+  ⟨f.app _ (Classical.arbitrary _)⟩
+
+lemma notNonempty_iff_hasDimensionLT_zero :
+    ¬ X.Nonempty ↔ X.HasDimensionLT 0 := by
+  simp only [not_nonempty_iff]
+  refine ⟨fun _ ↦ ⟨fun n hn ↦ ?_⟩, fun _ ↦ ⟨fun x ↦ ?_⟩⟩
+  · have := Function.isEmpty (X.map (⦋0⦌.const ⦋n⦌ 0).op)
+    ext x
+    exact isEmptyElim x
```
Comment (dagurtomas) [inline Mathlib/AlgebraicTopology/SimplicialSet/Nonempty.lean]:
```suggestion
    subsingleton
```

File: Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+
+@[elab_as_elim, cases_eliminator, induction_eliminator]
+lemma rec {motive : π₀ X → Prop} (mk : ∀ (x : X _⦋0⦌), motive (.mk x)) (x : π₀ X) :
+    motive x := by
+  obtain ⟨x, rfl⟩ := x.mk_surjective
+  exact mk x
+
+/-- Constructor for maps from the type of connected components of a simplicial set. -/
+def lift {T : Type*} (f : X _⦋0⦌ → T)
+    (hf : ∀ ⦃x₀ x₁ : X _⦋0⦌⦄ (_ : X.Edge x₀ x₁), f x₀ = f x₁) :
```
Comment (dagurtomas) [inline Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean]:
```suggestion
def lift {T : Type*} (f : X _⦋0⦌ → T) (hf : ∀ ⦃x₀ x₁ : X _⦋0⦌⦄ (_ : X.Edge x₀ x₁), f x₀ = f x₁) :
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+variable {X Y Z : SSet.{u}}
+
+/-- The homotopy relation on `0`-simplices of a simplicial set. It holds
+for `x₀` and `x₁` when there exists an edge from `x₀` to `x₁`. -/
+def π₀Rel (x₀ x₁ : X _⦋0⦌) : Prop :=
+  Nonempty (Edge x₀ x₁)
+
+variable (X) in
+/-- The type of connected components of a simplicial set. -/
+def π₀ : Type u := Quot (π₀Rel (X := X))
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean:46]: Maybe this should be marked irreducible? We’re going to get scolded for using semi-reducible type-valued definitions otherwise.

File: Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+
+public import Mathlib.AlgebraicTopology.SimplicialSet.Nonempty
+
+/-!
+# Connected components of simplicial sets
+
+In this file, we define the type `π₀ X` of connected components
+of a simplicial sets. We also introduce typeclasses
+`IsPreconnected X` and `IsConnected X`.
+
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean:16]: Can you please add a TODO to compare `π₀ X` with the colimit of `X`? As far as I am aware, this is also a reasonable way to define `π₀` (https://kerodon.net/tag/00GR).
What you define here is seems easy to work with, but the advantage of `colimit` is that as a functor, you get some properties for free (preservations of colimits, and preservations of finite products as the simplex category is sifted)

File: Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean [hunk 6]
```diff
@@ -0,0 +1,110 @@
...
+-/
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean:27]:
```suggestion
## References:

- [Kerodon 00G5: Connected Components of Simplicial Sets](https://kerodon.net/tag/00G5)

-/
```

File: Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/PiZero.lean:16]: Thanks for the suggestion!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
